US08030497B2
[4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-(3-methoxy-phenyl)-methanol
The title compound is prepared from 4-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbaldehyde and 3-methoxyphenyl-magnesium bromide as described in examples 35 and 51.

reactant | 4-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbaldehyde | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)C=O | C21H23BrN2O3
reactant | 3-methoxyphenyl-magnesium bromide | COC=1C=C(C=CC1)[Mg]Br
product | [4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-(3-methoxy-phenyl)-methanol | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)C(O)C2=CC(=CC=C2)OC | C28H31BrN2O4
